US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-4-methyl-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A 200 mg portion of 1-ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid was dissolved in a mixture of 0.6 ml of 37% formaldehyde and 0.75 ml of 90% formic acid, heated on a steam bath for 3 hours and then concentrated in vacuo. The residue was dissolved in 5 ml of water and 1N sodium hydroxide was added to pH 7. The resulting solid was collected, washed with water and dried, giving 180 mg of the desired product, mp 228°-230° C.

reactant | 1-ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)COC)F)=O)C(=O)O | C18H22FN3O4
reactant | formaldehyde | 0.6 ml | C=O | CH2O
solvent | formic acid | 0.75 ml | C(=O)O | CH2O2
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(methoxymethyl)-4-methyl-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 180 mg | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)C)COC)F)=O)C(=O)O | C19H24FN3O4
